US06255494B1
Preparation of (RS) 4-[3-[2-(methyl)piperidin-1-yl]propoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole
A solution of 4-[3-bromopropoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole (77 mg, 0.124 mmol, 1 eq) in anhydrous N,N-dimethylformamide (2 ml) was treated with potassium carbonate (51.3 mg, 0.37 mmol, 2 eq) and (RS) 2-(methyl)piperidine (0.19 mmol, 1.5 eq). The resulting mixture was stirred at 80° C. for six hours. The reaction was quenched by the addition of water (10 ml). The aqueous fraction was extracted with ethyl acetate (3×10 ml). The organic fractions were combined, washed with water (3×10 ml), brine (1×10 ml), and then dried over sodium sulfate. The solvents were removed in vacuo to yield an oily crude product which was purified by flash chromatography to provide the title product.

reactant | 4-[3-bromopropoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | 0.124 mmol, 77 mg, 1 eq | BrCCCOC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C30H39BrClN3O4
reactant | potassium carbonate | 0.37 mmol, 51.3 mg, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | (RS) 2-(methyl)piperidine | 0.19 mmol, 1.5 eq | CC1NCCCC1 | C6H13N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (RS) 4-[3-[2-(methyl)piperidin-1-yl]propoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | CC1N(CCCC1)CCCOC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C36H51ClN4O4
